US07592373B2
(E)-N-(4′-chlorobiphenyl-4-yl)-3-(4-{[cyclohexyl-(2-hydroxyethyl)amino]methyl}phenyl)acrylamide
0.24 g (1.7 mmol) of 2-cyclohexylaminoethanol are added to a suspension of 130 mg (0.34 mmol) of (E)-N-(4′-chlorobiphenyl-4-yl)-3-(4-chloromethylphenyl)acrylamide in 10 mL of DMF and the mixture is stirred for 48 hours at 80° C. Then the reaction mixture is poured onto water and the precipitate formed is suction filtered and washed with water. The solid is dried in the circulating air dryer at 50° C. Yield: 20 mg (10% of theory); C30H33ClN2O2 (M=489.05); melting point: 178° C.-179° C.; calc.: molecular ion peak (M+H)+: 489/491 (Cl); found: molecular ion peak (M+H)+: 489/491 (Cl).

reactant | 2-cyclohexylaminoethanol | 1.7 mmol, 0.24 g | C1(CCCCC1)NCCO | C8H17NO
reactant | (E)-N-(4′-chlorobiphenyl-4-yl)-3-(4-chloromethylphenyl)acrylamide | 0.34 mmol, 130 mg | ClC1=CC=C(C=C1)C1=CC=C(C=C1)NC(\C=C\C1=CC=C(C=C1)CCl)=O | C22H17Cl2NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (E)-N-(4′-chlorobiphenyl-4-yl)-3-(4-{[cyclohexyl-(2-hydroxyethyl)amino]methyl}phenyl)acrylamide | ClC1=CC=C(C=C1)C1=CC=C(C=C1)NC(\C=C\C1=CC=C(C=C1)CN(CCO)C1CCCCC1)=O | C30H33ClN2O2
